US08222274B2
A 340 mg portion of benzyl 4-{4-(tert-butoxycarbonyl)-1-[2-(4-fluorophenyl)ethyl]-5-methyl-1H-pyrrol-2-yl}piperidine-1-carboxylate was dissolved in 7 ml of methanol, and 159 μl of 37% formalin, 3 drops of acetic acid and 45 mg of 10% palladium-activated carbon were added, followed by stirring at room temperature for 2 hours in an atmosphere of hydrogen. The reaction liquid was filtered through celite, the filtrate was concentrated under a reduced pressure, 50 ml of a saturated sodium bicarbonate aqueous solution was added to the residue, and the resulting solid was collected by filtration to obtain 232 mg of tert-butyl 1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-(1-methylpiperidin-4-yl)-1H-pyrrole-3-carboxylate as a colorless solid.

reactant | benzyl 4-{4-(tert-butoxycarbonyl)-1-[2-(4-fluorophenyl)ethyl]-5-methyl-1H-pyrrol-2-yl}piperidine-1-carboxylate | C(C)(C)(C)OC(=O)C=1C=C(N(C1C)CCC1=CC=C(C=C1)F)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C31H37FN2O4
reactant | formalin | 159 μl | C=O | CH2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 7 ml | CO | CH4O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
catalyst | palladium-activated carbon | 45 mg | [Pd] | Pd
product | tert-butyl 1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-(1-methylpiperidin-4-yl)-1H-pyrrole-3-carboxylate | 232 mg | FC1=CC=C(C=C1)CCN1C(=C(C=C1C1CCN(CC1)C)C(=O)OC(C)(C)C)C | C24H33FN2O2
